US06372759B1
B) 3-[(4-t-Butylbenzoyl)amino]-2-thiophenecarboxylic Acid
To a stirring solution of methyl 3-[(4-t-butylbenzoyl)amino]-2-thiophenecarboxylate (9.67 g, 30 mmol) in dioxane (75 mL) was added 2 M sodium hydroxide (75 mL). After 16 h, the mixture was acidified to pH 2 with 5 M hydrochloric acid, then diluted with ethyl acetate. The phases were separated and the aqueous layer was extracted a total of 3 times with ethyl acetate. The combined ethyl acetate fractions were dried over magnesium sulfate, filtered, and the solvent was removed in vacuo to afford the product (8.09 g, 89% yield).

reactant | methyl 3-[(4-t-butylbenzoyl)amino]-2-thiophenecarboxylate | 30 mmol, 9.67 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=C1 | C17H19NO3S
reactant | sodium hydroxide | 2 M, 75 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(4-t-Butylbenzoyl)amino]-2-thiophenecarboxylic Acid | 8.09 g, 89% yield | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)O)C=C1 | C16H17NO3S
